US08278482B2
1-(2-Methyl-2-nitropropyl)piperidine
To a stirred ice cold solution of 2-nitropropane (10.0 g, 0.11 mol) and piperidine (11.1 mL, 1 equiv, 0.11 mol) was added dropwise a premixed solution of sodium hydroxide (0.5 mL, 5 N, 2 mol %) and a 37% aqueous solution of formaldehyde (8.4 mL g, 1 equiv, 0.11 mol) over 15 minutes maintaining an internal temperature between 10-15° C. The flask was removed from the ice bath and stirred at room temperature for 1 h. The reaction was then heated at 50° C. for 1 h. The biphasic mixture was cooled to room temperature and poured into a separatory funnel and diluted with ethyl acetate (150 mL) and water (50 mL). The layers were separated and the organic layer was washed with water (2×50 mL) and brine (50 mL). The organic layer was dried over anhydrous MgSO4, filtered and concentrated to a yellow liquid (20.0 g). This material was used without further purification. 1H NMR (CDCl3, 400 MHz): δ 1.35-1.38 (m, 2H), 1.46-1.51 (m, 4H), 1.53 (s, 6H), 2.43-2.46 (t, J=5.2, 4H), 3.10 (s, 3H), 3.42-3.51 (m, 4H), 4.20 (s, 2H).

reactant | 2-nitropropane | 0.11 mol, 10.0 g | [N+](=O)([O-])C(C)C | C3H7NO2
reactant | piperidine | 0.11 mol, 11.1 mL, 1 equiv | N1CCCCC1 | C5H11N
reactant | sodium hydroxide | 5 N, 0.5 mL | [OH-].[Na+]
reactant | formaldehyde | 0.11 mol, 8.4 mL, 1 equiv | C=O | CH2O
product | 1-(2-Methyl-2-nitropropyl)piperidine | CC(CN1CCCCC1)(C)[N+](=O)[O-] | C9H18N2O2
